Circuito T1
*
* NGSPICE simulation script
* Linear Circuit Analysis
*

*Indepedent Voltage Source
Va 1 0 5.170384718391707

*Independent Current Source
Id 8 5 1.0128137373779453m

*Resistors
R1 1 2 1.0327989730000082k
R2 3 2 2.076252905365045k 
R3 2 4 3.0442587081175145k
R4 4 0 4.018331237741675k
R5 4 5 3.051656609797744k
R6 0 6 2.0564303557801273k
R7 7 8 1.016272405432133k

*Dummy 0V-Voltage Source to Measure Current through R6 (Ic)
Vx 6 7 0.0

*Current Controlled Voltage Source
Hc 4 8 Vx 8.075802165837253k

*Voltage Controlled Current Source
Gb 5 3 (2,4) 7.039798806252302m


.model linearcircuit NPN
.control
op
echo "op_TAB"
print all
echo "op_END"
quit
.endc

.end
